2147-10-22 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - diltiazem drip was increased to 15, with HR still in the 140s.
   -Dilt was discontinued, patient was given 1L NS, and given lopressor
   5mg X 1 with a HR in the 90s.  Blood pressure 136/70.
   -Begun on 25mg metoprolol PO TID.  Lopressor 5mg X 1 given again at
   11:45PM with good response.
   - consulted heme/onc: initially suspicious of TTP/HUS, but upon [**Location (un) 118**]
   peripheral smear with Blood bank attending, not convinced of TTP due to
   lack of evidence of microangiopathic hemolytic anemia.
   - no plasmapharesis was initiated
   - repeated CBC, Chem7, U/A
   - had difficulty placing foley due to resistance, patient has refused
   any further catheter attempts from us or urology; last bladder scan
   showed 800ccs
   - patient reportedly incontinent overnight
   Allergies:
   Tetracyclines
   chest pain and
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2147-10-22**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2147-10-22**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-22**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 94 (83 - 141) bpm
   BP: 137/75(90) {115/59(76) - 174/100(108)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    690 mL
                                                                    321 mL
   PO:
             TF:
   IVF:
                                                                    690 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    225 mL
   Urine:
   225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear, conjunctiva pale
   Neck: supple, JVP 8cm, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: tachycardic, irregularly irregular, SEM at the LUSB
   Abdomen:  soft, non-tender, mild to mod distension, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly, feels the
   urge to urinate when pressing on the abdomen
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AOx3, no asterixis, able to hold a normal conversation, no
   saddle anesthesia, 4+/5 stregnth in lower extremities- bilaterally
   symmetric quad, hamstring, dorsiflex, plantarflex, abduction,
   adduction.
   Labs / Radiology
   59 K/uL
   9.0 g/dL
   115 mg/dL
   5.6 mg/dL
   18 mEq/L
   5.0 mEq/L
   105 mg/dL
   106 mEq/L
   138 mEq/L
   26.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2147-10-22**]  12:14 AM
                             [**2147-10-22**]  03:25 AM
   WBC
   9.7
   9.4
   Hct
   26.5
   26.9
   Plt
   60
   59
   Cr
   5.6
   5.6
   Glucose
   107
   115
   Other labs: PT / PTT / INR:30.7/36.5/3.1, Alk Phos / T Bili:/0.5,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:5.7 %, Mono:6.8 %, Eos:0.4
   %, Fibrinogen:395 mg/dL, LDH:592 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:7.2 mg/dL
   LDH: 554
   CK: 223
   Haptoglobin: <20
   ALT: 18, AST: 37, AP: 83, Tot bili: 0.7, Dir Bili: 0.2, Ind Bili: 0.5
   PSA: 958.6
   Lactate: 0.9
   Micro: U/A: nitrite neg, leuk neg, Na: 63, creat: 47
   Blood culture ([**10-21**]): pending
   CXR: ([**10-21**]): increased retrocardiac density at left base with
   corresponding basilar opacity on left view, concern for LLL pneumonia
   Renal U/S ([**10-21**]): no hydronephrosis, potentially partially septated
   cyst.
   Assessment and Plan
   Assessment and Plan: 78 yoM w/ a h/o metastatic prostate cancer and
   paroxsymal afib presents with worsening back pain, found to have
   thrombocytopenia, anemia, severe acute renal failure, questionable
   somnolence as well as afib with RVR- admitted to the ICU as he was
   requiring a diltiazem drip for rate control.
   .
   # Acute renal failure: very significant acute renal failure with a Cr
   of 5.6 which was 0.9 four days prior.  BUN 100.  In the setting of low
   platelets, decreased hct, and possible mild mental changes, suspicion
   for TTP or HUS was high.  However, per renal, urinary sediment showed
   brown muddy casts consistent with acute tubular necrosis.  Further,
   smear underwhelming for microangiopathic hemolytic anemia, making TTP
   less likely.  Cause of ATN unclear, but insult likely occurred on
   [**2147-10-17**].  No need for RRT at this time.
   - calculated FeNa: 5.4, suggestive of ATN
   - monitor platelets, peripheral smears
   - IVF as necessary
   - followed by heme onc
   - renal u/s negative for hydro; difficulty in inserting foley catheter
   suggests possible obstruction or stricture.  Bladder scan showed 800ccs
   in the bladder, patient reportedly incontinent overnight.  Patient
   refuses further catheter attempts.  Have spoken to urology.
   - LDH elevated at 554, haptoglobin low at <20 suggests hemolysis
   pattern but hct fairly stable
   - renal following
   - heme onc following
   .
   # thrombocytopenia: unclear cause, may be secondary taxotare.  On cycle
   12 of his chemo regimen which could possibly cause thrombocytopenia
   however he has not suffered thrombocytopenia in the past.  TTP/HUS are
   high on the differential due to unexplained thrombocytopenia and
   evidence of microangiopathic hemolytic anemia.  In addition DIC is less
   likely.  An isolated cause (unrelated to his ARF) is possible such as
   ITP but is less likely.
   -hematology consult.  Initial thought was possible TTP, but less likely
   as above.  Sent for ADAMTS13 Activity.
   -fibrinogen: 395 WNL, so DIC less likely
   .
   # Anemia: slightly lower than baseline, as above will send hemolysis
   labs.
   -trend hct: 26.9 down from 32.1 five days ago
   -baseline is in the low 30s and based on iron studies from [**5-18**]
   consistent with anemia of chronic disease.  No B12 or folate labs in
   [**Last Name (LF) 1337**], [**First Name3 (LF) 124**] send in a.m.
   .
   # Afib with RVR: rate well controlled, HR < 100
   -given low platelets will hold coumadin for now, restart if plts
   improve and if low liklihood of any procedures
   -rate control with dilt ineffective, responded well to IV lopressor and
   now on PO 25mg metoprolol TID
   .
   # Back pain: associated with a few months of lower extremity weakness.
   Last imaging of his spine was [**5-18**] with an MRI of his C, T and L spine
   which demonstrated diffuse metastasis to the spine and no cord
   compression.
   -will obtain repeat MRI of L, T, C spine without contrast (given ARF)
   -oxycontin 10mg po tid with prn PO oxycodone and prn IV dilaudid prn
   pain, will calculate requirements and increase doses on a daily bases
   .
   # question of LLL Pna: was started empirically on levofloxacin 250mg PO
   daily, but given lack of fever, leukocytosis, cough, or other clinical
   findings, will dc abx today.  Monitor for decompensation with low
   threshold to reinitiate abx.
   .
   FEN: No IVF, replete electrolytes, regular diet
   .
   Prophylaxis: on coumadin for afib, holding for now
   .
   Access: peripherals
   .
   Code:  Full (discussed with patient)
   .
   Communication: Patient.  Patient's daughter, [**Name (NI) **] [**Name (NI) 8848**], has asked
   to be informed of patient's status.  Reports poor relationship with her
   step-mother (who is here with the patient) and is fearful that she will
   not hear about how her father is doing.  [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 8848**]: [**Telephone/Fax (1) 8849**].
   .
   Disposition: c/o
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  none.
   Lines:
   18 Gauge - [**2147-10-21**] 08:41 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to oncology today

2147-10-23 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 2728**] came and had extensive discussion with pt on code
   status. Currently remains full code.
   - heme/onc recs: cbc and hemolysis labs [**Hospital1 **], peripheral blood smears
   daily, would be happy to accept him as transfer once stable to get out
   of ICU
   - renal recs: muddy brown casts, consistent with ATN. unclear why he
   has ATN (3 possible explanations: 1. HUS/TMA, 2.
   Afib/hypotension/pre-renal, 3. obstruction). Recommend get CT abd today
   to assess pelvic/retroperitoneal mass causing ureteral obstruction
   leading to ARF
   - transfusion medicine recs: smears underwhelming for microangiopathy,
   making TTP less likely. continue to monitor CBC and hemolysis labs
   - B12 was low at 147, started on repletion. --> another reason for
   anemia. MCV 80s-90
   - ADAMTS13 assay is pending
   - ordered direct coombs test
   - c/o to OMED today, but no bed available, so stayed in the unit
   Allergies:
   Tetracyclines
   chest pain and
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2147-10-23**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 110 (71 - 127) bpm
   BP: 105/71(75) {98/42(56) - 134/80(87)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,068 mL
                                                                    413 mL
   PO:
                                                                    420 mL
                                                                     40 mL
   TF:
   IVF:
                                                                    648 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                      0 mL
   Urine:
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    743 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear, conjunctiva pale
   Neck: supple, JVP 8cm, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: tachycardic, irregularly irregular, SEM at the LUSB
   Abdomen:  soft, non-tender, mild to mod distension, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly, feels the
   urge to urinate when pressing on the abdomen
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AOx3, no asterixis, able to hold a normal conversation, no
   saddle anesthesia, 4+/5 stregnth in lower extremities- bilaterally
   symmetric quad, hamstring, dorsiflex, plantarflex, abduction,
   adduction.
   Labs / Radiology
   84 K/uL
   9.1 g/dL
   118 mg/dL
   6.3 mg/dL
   18 mEq/L
   5.2 mEq/L
   115 mg/dL
   103 mEq/L
   136 mEq/L
   26.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2147-10-22**]  12:14 AM
                             [**2147-10-22**]  03:25 AM
                             [**2147-10-22**]  03:14 PM
                             [**2147-10-23**]  03:06 AM
   WBC
   9.7
   9.4
   9.2
   7.8
   Hct
   26.5
   26.9
   30.4
   26.7
   Plt
   60
   59
   70
   84
   Cr
   5.6
   5.6
   6.3
   Glucose
   107
   115
   118
   Other labs:
   PT / PTT / INR:36.3/39.2/3.7,
   T Bili:0.3, LDH:394 IU/L, Hapto 23
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:8.6 mg/dL
   Ret-Aut: 0.5
   CT abdomen/pelvis: prelim
   1. No hydronephrosis or hydroureter. No findings to account for acute
   renal
   failure.
   2. Multiple liver cysts and renal cysts, with some renal cysts which
   are
   hyperdense. Enhancement pattern not assessed due to lack of IV
   contrast.
   5-mm lower pole left non-obstructing renal calculus.
   3. Extensive bony metastatic disease, without acute fracture.
   4. Status post prostatectomy. Right pelvic sidewall mass and a small
   right
   external iliac node or increase in size from prior.
   CXR:
   As compared to the previous radiograph, there is no relevant
   change. Minimal left-sided pleural effusion. Moderate cardiomegaly
   without
   overt signs of overhydration. Mild retrocardiac atelectasis. There is
   no
   evidence of newly occurred focal parenchymal opacities suggesting
   pneumonia.
   The right lung is unremarkable.
   Assessment and Plan
   78 yoM w/ a h/o metastatic prostate cancer and paroxsymal afib presents
   with worsening back pain, found to have thrombocytopenia, anemia,
   severe acute renal failure, questionable somnolence as well as afib
   with RVR- admitted to the ICU as he was requiring a diltiazem drip for
   rate control.
   .
   # Acute renal failure: very significant acute renal failure with a Cr
   of 5.6 which was 0.9 four days prior.  BUN 100.  In the setting of low
   platelets, decreased hct, and possible mild mental changes, suspicion
   for TTP or HUS was high.  However, per renal, urinary sediment showed
   brown muddy casts consistent with acute tubular necrosis.  Further,
   smear underwhelming for microangiopathic hemolytic anemia, making TTP
   less likely.  Cause of ATN unclear, but insult likely occurred on
   [**2147-10-17**].  No need for RRT at this time.
   - calculated FeNa: 5.4, suggestive of ATN
   - monitor platelets, peripheral smears
   - IVF as necessary
   - followed by heme onc
   - renal u/s negative for hydro; difficulty in inserting foley catheter
   suggests possible obstruction or stricture.  Bladder scan showed 800ccs
   in the bladder, patient reportedly incontinent overnight.  Patient
   refuses further catheter attempts.  Have spoken to urology.
   - LDH elevated at 554, haptoglobin was low at <20 suggesting hemolysis
   pattern but now normalizing and hct fairly stable throughout
   - renal rec Foley placement by Urology (will give Vit K PO, FFP prior)
   - heme onc following
   .
   # thrombocytopenia: unclear cause, may be secondary taxotare.  On cycle
   12 of his chemo regimen which could possibly cause thrombocytopenia
   however he has not suffered thrombocytopenia in the past.  TTP/HUS are
   high on the differential due to unexplained thrombocytopenia and
   evidence of microangiopathic hemolytic anemia.  In addition DIC is less
   likely.  An isolated cause (unrelated to his ARF) is possible such as
   ITP but is less likely.
   -hematology consult.  Initial thought was possible TTP, but less likely
   as above.  Sent for ADAMTS13 Activity, however canceled by lab since
   TTP unlikely
   -fibrinogen WNL, so DIC less likely
   .
   # Anemia: slightly lower than baseline.
   -trend hct
   -baseline is in the low 30s and based on iron studies from [**5-18**]
   consistent with anemia of chronic disease.
   - low B12, started suppl
   ..
   # Afib with RVR: rate well controlled, HR < 100
   -given low platelets will hold coumadin for now, restart if plts
   improve and if low liklihood of any procedures
   -rate control with dilt ineffective, responded well to IV lopressor and
   now on PO 25mg metoprolol TID
   - per cards rec: incr to 37.5 PO metop TID
   .
   # Back pain: associated with a few months of lower extremity weakness.
   Last imaging of his spine was [**5-18**] with an MRI of his C, T and L spine
   which demonstrated diffuse metastasis to the spine and no cord
   compression.
   -will defer obtaining repeat MRI of L, T, C spine without contrast
   (given ARF) to OMED team
   -oxycontin 10mg po tid with prn PO oxycodone and prn IV dilaudid prn
   pain, will calculate requirements and increase doses on a daily bases
   .
   # question of LLL Pna: was started empirically on levofloxacin 250mg PO
   daily, but given lack of fever, leukocytosis, cough, or other clinical
   findings, dc
d abx.  Monitor for decompensation with low threshold to
   reinitiate abx.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-21**] 08:41 PM
   Prophylaxis:
   DVT: on coumadin, holding for now
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: called out to OMED

2147-10-23 10:46:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   Thrombocytopenia
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Patient with ATN confirmed by Renal Team--no obvious source, however.
   Further evaluation of renal collecting system with CT performed
   Continued evaluation of peripheral smear failed to reveal significant
   schistocytes making [**Doctor First Name 2079**] less likely at this time and no pursuit of
   pheresis.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Tetracyclines
   chest pain and
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2147-10-23**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2147-10-23**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 110 (71 - 127) bpm
   BP: 108/73(81) {98/42(56) - 134/80(87)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,068 mL
                                                                    679 mL
   PO:
                                                                    420 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    648 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                    600 mL
   Urine:
                                                                    325 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    743 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic),
   Irregularly Irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   84 K/uL
   118 mg/dL
   6.3 mg/dL
   18 mEq/L
   5.2 mEq/L
   115 mg/dL
   103 mEq/L
   136 mEq/L
   26.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2147-10-22**]  12:14 AM
                             [**2147-10-22**]  03:25 AM
                             [**2147-10-22**]  03:14 PM
                             [**2147-10-23**]  03:06 AM
   WBC
   9.7
   9.4
   9.2
   7.8
   Hct
   26.5
   26.9
   30.4
   26.7
   Plt
   60
   59
   70
   84
   Cr
   5.6
   5.6
   6.3
   Glucose
   107
   115
   118
   Other labs: PT / PTT / INR:36.3/39.2/3.7, Alk Phos / T Bili:/0.3,
   Differential-Neuts:86.8 %, Band:0.0 %, Lymph:5.7 %, Mono:6.8 %, Eos:0.4
   %, Fibrinogen:515 mg/dL, LDH:394 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:8.6 mg/dL
   Imaging: CT--no hydronephrosis, no hydroureter
   CXR--small blunting of left side
   Assessment and Plan
   78 yo male with history of prostate cancer with metastases who now
   presents with a combination of acute renal failure, thrombocytopenia,
   atrial fibrillation and intermittent altered mental status.  A single
   unifying diagnosis has been hard to determine as TTP/HUS appears much
   less likely at this time.  Source of ATN does appear to be present but
   without significant obstruction, ischemia
   1)Acute Renal Failure-
   -Will need CT scan final read but obstruction not seen up on our review
   of images
   -Will have to continue to maintain adequate volume status and monitor
   urine flow
   -We do appreciate guidance from renal team in the setting of persistent
   and increased Cr
   -Will need foley catheter placement by Urology
would favor improvement
   in INR and consideration of DDAVP peri-procedure based upon urology
   bias.
   -Dialysis likely to be needed in near term and will have to discuss
   2)Atrial Fibrillation_Reasonable control of rate across time with
   implementation of beta-blocker treatment.
   -Continue titration of beta-blocker therapy
   -Goal rate control at <100 bpm
   -Coumadin held but INR persistently elevated.
   3)Thrombocytopenia-Patient has shown trend to increase across time
   without intervention
   -Continue to trend [**Hospital1 **]
   -No role for transfusion at this time
   4)Anemia--Has been stable HCT across time in ICU without evidence of
   further hemolysis by HCT/Hgb at least.  T. Bili is normal
   -Follow HCT [**Hospital1 **]
   5)Prostate Cancer-
   -Appreciate Dr. [**Last Name (STitle) 4593**]
s input, will continue to provide supportive Rx.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 INEFFECTIVE COPING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition: PO intake to continue with IVF supplementing
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-21**] 08:41 PM
   Prophylaxis:
   DVT: Systemic anticoagulatiln
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor with reasonable capacity to monitor
   urine flow and continued statbility of heart rate.
   Total time spent: 35 minutes